US05674906
Synthesis of (Z)-1-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene-glycineamide
(Z)-1-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene-Fmoc-glycineamide (1.08 g, 1.82 mmols) was dissolved in 20 ml of methanol, and 1.0 ml (2.0 mmols) of a 2-N sodium hydroxide aqueous solution was added thereto. The mixture was stirred for 3 hours. A saturated solution of sodium hydrogencarbonate was added thereto, and the mixture was extracted three times with dichloromethane. The extract was dried over anhydrous sodium sulfate, and concentrated to dryness under reduced pressure. The product was purified using a silica-gel plate (mixture of 5-% methanol and dichloromethane) to produce 479 mg of the final product in a yield of 70.7%.

reactant | (Z)-1-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene Fmoc-glycineamide | 1.82 mmols, 1.08 g | NC=1C=C(C=CC1OC)\C=C/C1=CC(=C(C(=C1)OC)OC)OC.C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NCC(=O)N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | (Z)-1-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene glycineamide | 479 mg, yield of 70.7% | NC=1C=C(C=CC1OC)\C=C/C1=CC(=C(C(=C1)OC)OC)OC.NCC(=O)N | InChI=1S/C18H21NO4.C2H6N2O/c1-20-15-8-7-12(9-14(15)19)5-6-13-10-16(21-2)18(23-4)17(11-13)22-3;3-1-2(4)5/h5-11H,19H2,1-4H3;1,3H2,(H2,4,5)/b6-5-;
